US03994940
In the manner given in Example 1B, 5-fluoro-2-[3-[2-(dimethylamino)ethyl]-5-(hydroxymethyl)-4H-1,2,4-triazol-4-yl]benzophenone in 1,2-dimethoxyethane is treated with phthalimide, triphenylphosphine and diethyl azodicarboxylate to give 5-fluoro-2-[3-[2-(dimethylamino)-ethyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 5-fluoro-2-[3-[2-(dimethylamino)ethyl]-5-(hydroxymethyl)-4H-1,2,4-triazol-4-yl]benzophenone | FC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CO)CCN(C)C | C20H21FN4O2
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 5-fluoro-2-[3-[2-(dimethylamino)-ethyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | FC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CCN(C)C | C28H24FN5O3
